US04560690
(iv) 1-Benzyl-4-(1-hydroxyethyl)-2-methylimidazole
To a solution of 7.2 g (0.306 mole) of 1-benzyl-2-methylimidazol-4-carboxaldehyde in 100 ml of tetrahydrofuran was added 15 ml of 2.9M methyl magnesium chloride (0.044 mole) in tetrahydrofuran. A white precipitate formed immediately. The mixture was stirred at room temperature for 30 minutes and then heated with 50 ml of 25% aqueous ammonium chloride solution. The precipitate was filtered off, washed with tetrahydrofuran and air dried. The combined filtrate and wash solutions were dried (Na2SO4) and concentrated in vacuo to a solid residue. The residue was dissolved in 300 ml of boiling ethyl acetate, dried (Na2SO4) and concentrated to half volume under reduced pressure. The solid which separated upon cooling was filtered off and air dried. Total yield=7.1 g (90%); m.p. 162.5°-167.5° C.

reactant | 1-benzyl-2-methylimidazol-4-carboxaldehyde | 0.306 mole, 7.2 g | C(C1=CC=CC=C1)N1C(=NC(=C1)C=O)C | C12H12N2O
reactant | methyl magnesium chloride | 0.044 mole, 2.9M, 15 ml | C[Mg]Cl
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-(1-hydroxyethyl)-2-methylimidazole | C(C1=CC=CC=C1)N1C(=NC(=C1)C(C)O)C | C13H16N2O
